US07915404B2
{2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester (One-step process)
A solution of isopropylhydrazine hydrochloride (1.07 g, 9.7 mmol) and (3-oxo-propyl)-carbamic acid benzyl ester (2.0 g, 9.7 mmol) in Et3N (20 mL) was heated at 60° C. After 1 h, 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane (2.2 g, 8.7 mmol) was added. After 16 h at 60° C., the mixture was cooled to rt and concentrated. The residue was partitioned between EtOAc and water. The organic layer was separated, dried (MgSO4), and concentrated. Purification by FCC gave the title compound.

reactant | isopropylhydrazine hydrochloride | 9.7 mmol, 1.07 g | Cl.C(C)(C)NN
reactant | (3-oxo-propyl)-carbamic acid benzyl ester | 9.7 mmol, 2.0 g | C(C1=CC=CC=C1)OC(NCCC=O)=O | C11H13NO3
reactant | 2-[3-(4-fluoro-phenyl)-2-nitro-allyl]-[1,3]dioxolane | 8.7 mmol, 2.2 g | FC1=CC=C(C=C1)C=C(CC1OCCO1)[N+](=O)[O-] | C12H12FNO4
solvent | Et3N | 20 mL | CCN(CC)CC | C6H15N
product | {2-[4-[1,3]Dioxolan-2-ylmethyl-5-(4-fluoro-phenyl)-1-isopropyl-1H-pyrazol-3-yl]-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC1=NN(C(=C1CC1OCCO1)C1=CC=C(C=C1)F)C(C)C)=O | C26H30FN3O4
